* C:\Users\EDU_OBOS_5057\Documents\Reflow oven\Design\HW\Simulation\Toggling protection\t_protection.asc
V1 V_in 0 5
C36 N001 V_in 10µ
C37 V_out 0 68n
R31 V_out 0 100k
D30 N001 V_out BAV70HM
.model D D
.lib C:\Users\EDU_OBOS_5057\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10m 0
.backanno
.end
